* Este es un circuito sencillo adaptado para LTspice
r1 1 0 100
v1 0 1 9
* Comentamos el análisis .op para centrarnos primero en el .dc
* .op
.dc v1 1 10 10
.end
